US08349851B2
To a suspension of LAH (0.26 g, 6.84 mmol) in THF (50 mL) at 0° C. was slowly added a suspension of methyl 2-(difluoro(4-fluorophenyl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazoline-7-carboxylate (1.17 g, 2.74 mmol) in THF (30 mL). The mixture was stirred at 0° C. for 0.5 h and then at rt for 4 h. The mixture was cooled to 0° C., and water (0.26 mL) was added dropwise and the mixture was stirred for 30 min. Then 15% NaOH (0.39 mL) was added and the mixture was stirred for 1 h. Then water (1.3 mL) was added and the mixture was stirred at rt overnight. The mixture was filtered through Celite washing with 20% MeOH/DCM (500 mL), and the filtrate was concentrated under reduced pressure. The residue was partitioned between water (200 mL) and EtOAc (150 mL), and the separated aqueous phase was extracted with EtOAc (2×150 mL). The combined organic layers were washed with brine (200 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by preparative reverse phase HPLC to afford a (2-(difluoro(4-fluorophenyl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-yl)methanol as awhite solid (901 mg, 82%). 1H NMR (300 MHz, DMSO-d6) δ 2.24 (s, 3H), 4.70 (s, 2H), 5.49 (s, 1H), 6.31 (s, 1H), 7.35 (t, 2H), 7.56 (d, 2H), 7.70 (t, 2H), 7.77 (s, 1H), 8.63 (d, 1H), 10.64 (s, 1H), 12.18 (s, 1H); LC-MS (ESI) m/z 400 (M+H)+.

reactant | LAH | 6.84 mmol, 0.26 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 2-(difluoro(4-fluorophenyl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazoline-7-carboxylate | 2.74 mmol, 1.17 g | FC(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C(=O)OC)(C1=CC=C(C=C1)F)F | C21H16F3N5O2
reactant | water | 0.26 mL | O | H2O
reactant | NaOH | 0.39 mL | [OH-].[Na+]
reactant | water | 1.3 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (2-(difluoro(4-fluorophenyl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-yl)methanol | 901 mg, 82% | FC(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)CO)(C1=CC=C(C=C1)F)F | C20H16F3N5O
